US06333336B1
To a stirred mixture of isopropylidene malonate (5.00 g, 34.7 mmol) in anhydrous dichloromethane (15 ml), cooled under nitrogen to 3° C., was added dropwise, over 7 min, dried pyridine (6.81 ml, 84.2 mmol). The resulting colourless solution was stirred at 3° C. for 3 min, then a solution of hydrocinnamoyl chloride (5.00 ml, 33.7 mmol) in anhydrous dichloromethane (13 ml) was added dropwise over 2.5 h, whilst maintaining the temperature below 6° C. The resulting orange cloudy mixture was stirred at 3° C. for 1 h, then at room temperature for 2.5 h. The mixture was diluted with dichloromethane (20 ml) and poured into ice-cold 1M aqueous HCl (42 ml). The aqueous layer was further extracted with dichloromethane (2×25 ml), and the combined organic extracts were washed with 1M aqueous HCl (2×25 ml), then saturated aqueous NaCl (25 ml), dried (Na2SO4) and evaporated in vacuo to leave 9.06 g of crude 5-benzylacetyl-2,2-dimethyl-1,3-dioxane-4,6-dione as an orange oil.

reactant | isopropylidene malonate | 34.7 mmol, 5.00 g | C1(CC(=O)OC(C)(C)O1)=O | C6H8O4
reactant | pyridine | 84.2 mmol, 6.81 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrocinnamoyl chloride | 33.7 mmol, 5.00 ml | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-benzylacetyl-2,2-dimethyl-1,3-dioxane-4,6-dione | 9.06 g | C(C1=CC=CC=C1)CC(=O)C1C(OC(OC1=O)(C)C)=O | C15H16O5
